US07135242B2
Synthesis of Bisfluorenyldiphenylsilane
Under a nitrogen gas atmosphere, 4.90 g (8.94 mmol) of 2,7-dibromo-9,9-dioctylfluorene, 20 ml of diethyl ether and 10 ml of toluene were added to a 100 ml three-necked flask equipped with a reflux condenser and a dropping funnel. Under cooling by an ice bath, 6.1 ml (9.76 mmol) of a hexane solution of n-butyllithium (1.6 M) was added dropwise. As the hexane solution of butyllithium was added dropwise, the solution turned red. The solution was agitated “as is” for approximately 1 hour; then, 1.03 g (4.21 mmol) of dimethoxydiphenylsilane was added, and this mixture was reacted under agitation all night.

reactant | 2,7-dibromo-9,9-dioctylfluorene | 8.94 mmol, 4.90 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCCCCCC)CCCCCCCC | C29H40Br2
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | dimethoxydiphenylsilane | 4.21 mmol, 1.03 g | CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC | C14H16O2Si
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | hexane | 9.76 mmol, 6.1 ml | CCCCCC | C6H14
product | Bisfluorenyldiphenylsilane | C1(=CC=CC=2C3=CC=CC=C3CC12)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=2C3=CC=CC=C3CC12 | C38H28Si
